US06355636B1
To 100 mg of butynoic acid in 5 mL of anhydrous tetrahydrofuran under an inert atmosphere at 0° C. was added 0.23 mL on N-methyl morpholine and 0.15 mL of isobutyl chloroformate. This solution was then added to 150 mg of 6-amino-4-(3-bromo-phenylamino)-[1.7]naphthyridine-3-carbonitrile in 3 mL of pyridine at 0° C. After standing at 0° C. for three days, a second portion of butynoyl chloride was added. After an additional 8 hours the reaction was stripped of solvents on a rotary evaporator and the crude product was purified by flash chromatograph using a gradient of 0-20% methanol/chloroform to give 15 mg of but-2-ynoic acid, [4-(3-bromo-phenylamino)-3-cyano-[1.7]naphthyridin-6-yl]-amide: melting point 255° C. (decomposed); mass spectrum (m/e): M+H 406.1, 408.2.

reactant | butynoic acid | 100 mg | C(C#CC)(=O)O | C4H4O2
reactant | isobutyl chloroformate | 0.15 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-amino-4-(3-bromo-phenylamino)-[1.7]naphthyridine-3-carbonitrile | 150 mg | NC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC(=CC=C1)Br | C15H10BrN5
reactant | butynoyl chloride | C(C#CC)(=O)Cl | C4H3ClO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | but-2-ynoic acid, [4-(3-bromo-phenylamino)-3-cyano-[1.7]naphthyridin-6-yl]-amide | 15 mg | BrC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)NC(C#CC)=O)C#N | C19H12BrN5O
